US06987116B2
Morpholine (16 mg, 0.18 mmol) is added to a suspension of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(4-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile (66 mg, 0.15 mmol) in 5 mL of dichloromethane and 0.5 mL of N,N-dimethylformamide. The reaction mixture is cooled to 0° C. and sodium triacetoxyborohydride (85 mg, 0.40 mmol) is added. After stirring at 0° C. for 1.5 hours, acetic acid (0.02 mL) is added and the reaction mixture is allowed to warm to room temperature and stirred overnight. The reaction is quenched by the addition of water and then partitioned between water and dichloromethane. The organic layer is dried over sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography to provide 48 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[4-(4-morpholinylmethyl)phenyl]thieno[3,2-b]pyridine-6-carbonitrile as yellow crystals, mp 244-245° C.; 1H NMR (DMSO-d6) δ 2.36 (m, 4H), 3.50 (s, 2H), 3.57 (m, 4H), 3.85 (s, 3H), 7.31 (s, 1H), 7.42 (d, J=8 Hz, 2H), 7.68 (d, J=8 Hz, 2H), 7.76 (s, 1H), 7.89 (s, 1H), 8.60 (s, 1H), 9.73 (s, 1H); MS 525.2 (M+H)+.

reactant | Morpholine | 0.18 mmol, 16 mg | N1CCOCC1 | C4H9NO
reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-(4-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile | 0.15 mmol, 66 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C2=CC=C(C=C2)C=O | C22H13Cl2N3O2S
reactant | sodium triacetoxyborohydride | 0.40 mmol, 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.02 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[4-(4-morpholinylmethyl)phenyl]thieno[3,2-b]pyridine-6-carbonitrile | 48 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C2=CC=C(C=C2)CN2CCOCC2 | C26H22Cl2N4O2S
